US08440666B2
2-(5-Bromo-4-adamantanecarboxamido-6-oxopyridazin-1(6H)-yl)acetic Acid
Ethyl 2-(5-bromo-4-amino-6-oxopyridazin-1(6H)-yl)acetate (100 mg, 0.362 mmol) in tetrahydrofuran (2 mL) was mixed with sodium hydride (58 mg, 1.46 mmol) and adamantanecarbonyl chloride (144 mg, 0.724 mmol) at room temperature and stirred at room temperature for 30 minutes. After completion of the reaction, the reaction solution was mixed with water and ethyl acetate and extracted with 1 M aqueous sodium hydroxide. The aqueous layer was acidified to pH 1 with 1 M hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and the solvent was removed by distillation to give the desired product.

reactant | Ethyl 2-(5-bromo-4-amino-6-oxopyridazin-1(6H)-yl)acetate | 0.362 mmol, 100 mg | BrC1=C(C=NN(C1=O)CC(=O)OCC)N | C8H10BrN3O3
reactant | sodium hydride | 1.46 mmol, 58 mg | [H-].[Na+]
reactant | adamantanecarbonyl chloride | 0.724 mmol, 144 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(5-Bromo-4-adamantanecarboxamido-6-oxopyridazin-1(6H)-yl)acetic Acid | BrC1=C(C=NN(C1=O)CC(=O)O)NC(=O)C12CC3CC(CC(C1)C3)C2 | C17H20BrN3O4
